US08486967B2
d) (3SR,5SR)-1-Amino-3-(2-chloro-4-fluorophenyl)-5-hydroxypiperidin-2-one
To tert-butyl (3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-ylcarbamate (1.67 g, 4.7 mmol) was added HCl (10 mL, 4 N in dioxane) and the reaction stirred for 1 hour. The reaction was then concentrated to dryness, redissolved in dichloromethane, washed with sodium hydrogen carbonate, dried with sodium sulfate and the solvent was evaporated in vacuo afford the title compound was obtained as a light yellow crystalline solid (1.11 g, 92%). MS ISP (m/e): 259.1 [(M+H)+].

reactant | tert-butyl (3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-ylcarbamate | 4.7 mmol, 1.67 g | ClC1=C(C=CC(=C1)F)C1C(N(CC(C1)O)NC(OC(C)(C)C)=O)=O | C16H20ClFN2O4
solvent | HCl | 4 N, 10 mL | Cl | ClH
product | (3SR,5SR)-1-Amino-3-(2-chloro-4-fluorophenyl)-5-hydroxypiperidin-2-one | NN1C(C(CC(C1)O)C1=C(C=C(C=C1)F)Cl)=O | C11H12ClFN2O2
